US08877780B2
TEA (0.3 ml, 2.2 mmol) was added to a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.32 g, 0.85 mmol) and 1-ethyl-4-isocyanato-benzene (0.14 ml, 1 mmol) in acetonitrile (20 mL) under nitrogen. The mixture was stirred at ambient temperature for 1 h, during which time it remained a suspension. The reaction was then monitored and determined to be complete. A 3.5% aqueous HCl solution (10 mL) was added, and the mixture stirred for 10 minutes. The solid was isolated by filtration, and the solid was washed with additional 3.5% aq. HCl (20 mL) and acetonitrile (20 mL), yielding the 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-ethyl-phenyl)-urea as a white solid (230 mg, 64%). HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4 in H2O: tR=3.53 min (98%); mp. 263-265° C. 1H NMR (DMSO-d6) δ 1.94-2.06 (m, 1H, CHH), 2.38 (qd, J=4.2, 13.1 Hz, 1H, CHH), 2.60 (d, J=17.0 Hz, 1H, CHH), 2.84-3.00 (m, 1H, CHH), 4.26-4.50 (m, 4H, CH2+CH2), 5.03 (s, 2H, CH2), 5.11 (dd, J=5.0, 13.1 Hz, 1H, CHN), 6.64 (t, J=5.9 Hz, 1H, Ar), 6.90 (d, J=8.9 Hz, 2H, Ar), 7.26-7.48 (m, 8H, Ar), 7.51 (s, 1H, NH), 7.69 (d, J=7.9 Hz, 1H, Ar), 8.43 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.20, 42.79, 47.10, 51.56, 69.38, 114.92, 119.44, 121.85, 122.91, 126.88, 127.59, 127.68, 128.35, 130.25, 133.73, 137.26, 142.36, 145.00, 153.02, 155.41, 167.95, 170.99, 172.86; LCMS MH=421. Anal Calcd for: C23H24N4O4+0.15 CH3CN: C, 65.60; H, 5.78; N, 13.62. found: C, 65.42; H, 5.69; N, 13.24.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 0.85 mmol, 0.32 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | 1-ethyl-4-isocyanato-benzene | 1 mmol, 0.14 ml | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
reactant | HCl | 10 mL | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(4-ethyl-phenyl)-urea | 230 mg, 64% | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC=C(C=C1)CC)=O)=O | C23H24N4O4
